US07737166B2
2-(4-Cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-2-methylpropanamide (I-96)
Ammonium chloride (73 mg, 1.36 mmol) was suspended in benzene (3.3 ml), and under nitrogen atmosphere, trimethylaluminium (1.03 M n-hexane solution) was dropwise added with keeping at 5° C. or lower, followed by stirring at room temperature for 2 hours. A benzene (1.6 ml) solution of ethyl 2-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-2-methylpropanoate (I-95) (166 mg, 0.45 mmol) was added, followed by stirring at 50° C. for 17 hours. Since the reaction did not finish, separately, the same amount of ammonium chloride (73 mg, 1.36 mmol) was suspended in benzene (3.3 ml), trimethylaluminium (1.03 M n-hexane solution was dropwise added with keeping at 5° C. or lower, followed by stirring at room temperature for 2 hours to prepare a solution, which was added to the original reaction solution, followed by stirring at 50° C. for 19 hours. Though the reaction did not finish, this was cooled to room temperature, fractionated with ethyl acetate and aqueous 1 N sodium hydroxide solution, and the organic layer was washed with saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was subjected to preparative TLC, eluted with a mixed solvent of chloroform/methanol (10:1, v/v) to obtain the entitled compound (58 mg, 38%) as a yellow amorphous solid.

reactant | Ammonium chloride | 1.36 mmol, 73 mg | [Cl-].[NH4+]
reactant | trimethylaluminium | 1.03 M | C[Al](C)C
reactant | ethyl 2-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-2-methylpropanoate | 0.45 mmol, 166 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(C(=O)OCC)(C)C)F)C2=CC=CC=C2)C | C21H19FN2O3
reactant | ammonium chloride | 1.36 mmol, 73 mg | [Cl-].[NH4+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | benzene | 3.3 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 3.3 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 1.6 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 1.03 M | CCCCCC | C6H14
product | 2-(4-Cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-2-methylpropanamide | 58 mg, 38% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(C(=O)N)(C)C)F)C2=CC=CC=C2)C | C19H16FN3O2
